US04209621
3-Dimethylamino-4'-fluoroacrylophenone
A mixture of 5.0 g. of p-fluoroacetophenone and 10 ml. of dimethylformamide dimethylacetal is refluxed for 4 hours. Evaporation gives an oil which crystallizes with the addition of hexane to give the product, m.p. 83.5°-84° C.

reactant | p-fluoroacetophenone | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylamino-4'-fluoroacrylophenone | CN(C=CC(=O)C1=CC=C(C=C1)F)C | C11H12FNO
